US04931083
3-(1-ethoxycarbonylethoxy)-1-(4-methylphenyl)-1,2,4-1H-triazole
The process was carried out as described in Example 8, starting with 1.1 g of sodium, 20 ml of methanol, 150 ml of dimethylsulfoxide, 8.5 g of 3-hydroxy-1-(4-methylphenyl)-1,2,4-1H-triazole and 8.7 g of ethyl 2-bromopropionate. A yield of 3.8 g of the desired product, m.p. 69°-71°, was obtained.

reactant | sodium | 1.1 g | [Na] | Na
reactant | methanol | 20 ml | CO | CH4O
reactant | 3-hydroxy-1-(4-methylphenyl)-1,2,4-1H-triazole | 8.5 g | OC1=NN(C=N1)C1=CC=C(C=C1)C | C9H9N3O
reactant | ethyl 2-bromopropionate | 8.7 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 3-(1-ethoxycarbonylethoxy)-1-(4-methylphenyl)-1,2,4-1H-triazole | yield of 3.8 g | C(C)OC(=O)C(C)OC1=NN(C=N1)C1=CC=C(C=C1)C | C14H17N3O3
